US05624941
A) trans-4-Trimethylsilyloxycyclohexylamine
A solution of 1.85 ml of chlorotrimethylsilane in 10 ml of CH2Cl2 is added dropwise to a solution of 2.0 g of trans-4-hydroxycyclohexylamine hydrochloride and 4.05 ml of triethylamine in 20 ml of CH2Cl2, cooled to 0° C. After stirring for 16 hours at room temperature, the mixture is hydrolyzed with water and extracted. The organic phase is washed successively with water, a 5% solution of Na2CO3 and saturated NaCl. After drying over MgSO4 and evaporation of the solvents, 1.43 g of amine (colorless liquid) are obtained.

reactant | chlorotrimethylsilane | 1.85 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | trans-4-hydroxycyclohexylamine hydrochloride | 2.0 g | Cl.O[C@@H]1CC[C@H](CC1)N
reactant | triethylamine | 4.05 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | trans-4-Trimethylsilyloxycyclohexylamine | C[Si](O[C@@H]1CC[C@H](CC1)N)(C)C | C9H21NOSi
